US04906669
2-(3,7,11,15-Tetramethyl-2-hexadecenyl)-1,3,5-benzenetriol (Compound 28)
3,7,11,15-Tetramethyl-2-hexadecen-1-ol (14.8 g;50 mmole) in dioxane (10 ml) was dropwise added to 16.2 g (100 mmole) of 1,3,5-benzenetriol·dihydrate and 4.3 g (30 mmole) of boron trifluoride ethyl etherate in dioxane (35 ml) at room temperature over one hour. After stirring the resulting reaction solution at that temperature overnight, it was further stirred at 50° C. for additional 3 hours, then poured into 150 ml of water and was extracted with 150 ml of isopropyl ether. The extract was washed twice with 150 ml of water and once with 150 ml of saturated aqueous solution of sodium chloride followed by drying it over anhydrous magnesium sulfate, distilling off the solvent and subjecting the resultant residue to silica gel column chromatography. Thus, 6.4 g of the title compound was recovered from the fractions eluted with hexane-ethyl acetate (2:1). Yield=32%.

reactant | 3,7,11,15-Tetramethyl-2-hexadecen-1-ol | 50 mmole, 14.8 g | CC(=CCO)CCCC(CCCC(CCCC(C)C)C)C | C20H40O
reactant | boron trifluoride ethyl etherate | 30 mmole, 4.3 g | B(F)(F)F.CCOCC
reactant | water | 150 ml | O | H2O
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 35 ml | O1CCOCC1 | C4H8O2
product | 2-(3,7,11,15-Tetramethyl-2-hexadecenyl)-1,3,5-benzenetriol | Yield=32% | CC(=CCC1=C(C=C(C=C1O)O)O)CCCC(CCCC(CCCC(C)C)C)C | C26H44O3
